US09126952B2
340.0 g (1.56 mol) of 2-amino-4-bromobenzoic acid were suspended in 970 ml of formamide and subsequently stirred at 170° C. for 12 h. Conventional work-up gave 326.0 g of 7-bromo-3H-quinazolin-4-one; HPLC/MS (M+H)+=226 as solid.

reactant | 2-amino-4-bromobenzoic acid | 1.56 mol, 340.0 g | NC1=C(C(=O)O)C=CC(=C1)Br | C7H6BrNO2
reactant | formamide | 970 ml | C(=O)N | CH3NO
product | 7-bromo-3H-quinazolin-4-one | 326.0 g | BrC1=CC=C2C(NC=NC2=C1)=O | C8H5BrN2O
